EVT E6 driver_step_33
.include TLV9062_ngspice.lib
.options reltol=1e-5 vntol=1e-9 abstol=1e-13
Vdd vdd 0 3.3
Vin inp 0 PULSE(1.49 1.51 2u 1n 1n 8u 20u)
X1 inp drive vdd 0 drive TLV9062
Cpcb drive 0 10p
Riso drive adc 33
Cf adc 0 343p
Rsw adc sample 200
Cs sample 0 15p

.control
set wr_singlescale
set wr_vecnames
set numdgt=12
tran 1n 18u 0 1n
wrdata driver_step_33.dat v(inp) v(drive) v(adc) v(sample)
quit
.endc
.end
